US06977256B2
A solution of {(S)-1-[(3-ethyl-1,2,4-oxadiazol-5-yl)-hydroxy-methyl]-propyl}-carbamic acid tert-butyl ester (3.67 g, 12.87 mmol) in dichloromethane (50 mL) was treated with trifluoroacetic acid (10 mL) and the mixture was stirred at room temperature for 1 hour. The reaction mixture was diluted with toluene then evaporated under vacuum to dryness. The residue was dissolved in dichloromethane (75 mL) and the solution was treated with MP-Carbonate (3.3 mmol/g, 6.0 g). This mixture was stirred at room temperature overnight, then filtered, then washed with 10% dichloromethane methanol and evaporated under vacuum to give (S)-2-amino-1-(3-ethyl-1,2,4-oxadiazol-5-yl)-butan-1-ol, a mixture of diastereomers, (2.26 g). 1H NMR [(CD3)2SO]: δ 4.61 and 4.54 (d, J=5 Hz, 1H), 2.86 (m, 1H), 2.71 (q, J=8 Hz, 2H), 1.6-1.0 (2×m, 2H), 1.22 (t, J=8 Hz, 3H), 0.88 (m, 3H). MS m/z 186 (M+H).

reactant | {(S)-1-[(3-ethyl-1,2,4-oxadiazol-5-yl)-hydroxy-methyl]-propyl}-carbamic acid tert-butyl ester | 12.87 mmol, 3.67 g | C(C)(C)(C)OC(N[C@@H](CC)C(O)C1=NC(=NO1)CC)=O | C13H23N3O4
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (S)-2-amino-1-(3-ethyl-1,2,4-oxadiazol-5-yl)-butan-1-ol | NC([C@H](O)C1=NC(=NO1)CC)CC | C8H15N3O2
